### PR TITLE
Exercise 5 Formalised and Exercise 3 refactored

### PR DESCRIPTION
**Pull request by ARazaMaths**
I have formalised Exercise 5. I don't think the last part is formalisable but I could be wrong. I have also renamed "Exercise_3" to "Exercise03" to match the naming convention in other files.

### CODE REVIEW

File: M1FExplained/Chapter25/Exercises/Exercise05.lean [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+(c) Show that the conclusion of part (b) does not follow if we only assume that (ab)^i = a^ib^i
+  for two consecutive values of i.
+-/
+
+
+
+---part a
+
+example {G : Type u_1} [Group G] : ∀ (a b : G), (a*b)^2 = a^2*b^2 → a*b = a*b := by
+  intro a b h₁
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise05.lean]: I don't think you've formalised the statement correctly. It says "(for all a and b, (ab)^2=a^2b^2) implies (for all x and y, xy=yx); there are two "forall"s in the question, and only one in your formalisation of it. This should be a relatively simple change though.

File: M1FExplained/Chapter25/Exercises/Exercise05.lean [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+  nth_rw 1 [← mul_assoc,← mul_assoc,] at h₂
+  nth_rw 4 [← pow_one a,] at h₂
+  rw [← pow_add,← h₁, pow_add,mul_assoc,mul_left_cancel_iff,pow_one,pow_one] at h₂
+  rw [h₂]
+
+
+--- part c
+
+/- Maybe I am being dumb, but I don't see how I can formalise this statement -/
+
```
Comment (kbuzzard) [inline M1FExplained/Chapter25/Exercises/Exercise05.lean:46]: You just write what you did before (but correct it, you need two foralls not one) and then put a "not" in front of it, and you've formalised it.

**Review by kbuzzard — COMMENTED** [review]
You should probably formalise the statements as they stand in the book, not how you've written them.

**Comment by kbuzzard** [comment]
Thanks a lot!
